Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
Slurred speech
 
Major Surgical or Invasive Procedure:
TEE

 
History of Present Illness:
Ms. ___ is a ___ yo  R-handed woman with history of HTN, HLD 
who presents with difficulty with word-finding since waking up 
the morning ___. She woke up around 0800 and felt 'funny'. 
Her mouth was 'full of saliva' and she states this was unusual. 
She didn't speak with anyone at that time. Over the course of 
the day other people described her speech as "halting" she felt 
as if she got "stuck." She also kept using the wrong words for 
things, such as substituting "wires" for weather. She eventually 
presented to the ED that evening as she was concerned about 
having a stroke. She reported these same language difficulties 
in both ___ and her native language ___. She 
had no other difficulties including no dysphagia, no dysarthria, 
no weakness/numbness, no difficulty walking, no difficulty 
driving. In fact, her son got lost driving her to the hospital, 
but Ms. ___ was able to correct this and navigate them to 
the hospital. She was at her baseline over the preceding days 
and the only thing out of the ordinary was having 2 glasses of 
wine the night before and going to bed later than usual, around 
0100. 

 
Past Medical History:
Hyperlipidemia and hypertension
 
Social History:
___
Family History:
Mother - HLD
Father d. age ___- HTN, d. of leukemia
Maternal aunt with cerebral aneurysm
No family history of MI, stroke
Four sons, all healthy. 
 
Physical Exam:
ON ARRIVAL: 
===========

PHYSICAL EXAMINATION
Vitals:  T: 98.3 HR: ___ BP: 136-170/57-71 RR: ___ SaO2: 
100%
RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Minimally inattentive, one error 
with
serial subtraction of threes from twenty. Speech fluency is
reduced, with occasional pauses. Speech is somewhat telegraphic.
Occasional paraphasic errors (both phonemic and semantic).  
Names
glove, chair, key. Calls cactus a plant, calls feather a "life",
calls hammock a 'balance'. Able to follow most commands but not
reverse order or cross-body commands. Delayed recall ___
spontaneously, unable to get third word with CC nor MC. No
evidence of hemineglect. 

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI with a
few beats bilateral end-gaze nystagmus. Facial sensation intact
to light touch. Face symmetric at rest and with activation.
Hearing intact to conversation. Palate elevates symmetrically.
___ strength in trapezii bilaterally. Tongue protrudes in 
midline
and moves briskly to each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic ___ WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4+*  ___   ___  5   5    5  5                  
R  5    ___   ___  5   5    5  5                 
*pain limitation from chronic shoulder pain

-DTRs:
   ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   tr                       
 R  2  2    2    2   tr                          
Plantar response was flexor bilaterally.

-Sensory:  Intact to LT, temp throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Able to 
perform
at least 5 steps of tandem gait. 

ON DISCHARGE
============
General: awake, interactive  
HEENT: NC/AT, no scleral icterus noted 
Neck: Supple, does not appear to have any meningismis 
Pulmonary: breathing comfortably on room air
Cardiac: warm and well perfused  
Abdomen: soft, NT, normal bowel sounds 
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: 
Patient is alert and oriented x 3. Able to repeat phrases and
read sentences with her glasses on. She can name objects but 
does
not know what a cactus is besides "plant" or what a hammock is
called but says she knows the name in ___. She is 
able
to name fingers. She says months of the year backwards but skips
___ and swaps ___. She is unable to do serial 7's. She
is able to follow simple commands but has some confusion with
complex commands like "touch your left thumb to your right ear."
She keeps grabbing the wrong ear. Recall not assessed. She is
able to write.

-Cranial Nerves:
PERRL 5 to 3 mm. EOMI full with intact visual fields with about 
2
beats of nystagmus on the R with lateral gaze, sensation intact
bilaterally, face symmetric bilaterally, hearing intact
bilaterally, tongue and uvula midline, ___ SCM and trapezius.

-Motor:
 Delt Bic ___ WrE FFl FE IO IP Quad Ham TA Gastroc         
L  4+*  ___   ___  5   5    ___                
R  5    ___   ___  5   5    ___               
*pain limitation from chronic shoulder pain
No pronator drift.

-Sensory: Intact to light touch bilaterally, no extinction to
double stimulus.

-DTRs: 
___ Pat Ach Pec jerk   Crossed Abductors
L  2  2    2    2   tr                       
R  2  2    2    2   tr                          
Plantar response was flexor bilaterally.

-Coordination/Gait: No dysmetria with finger to nose testing
bilaterally. 
 
Pertinent Results:
___ 05:20AM BLOOD WBC-6.4 RBC-4.05 Hgb-12.1 Hct-36.8 MCV-91 
MCH-29.9 MCHC-32.9 RDW-12.9 RDWSD-42.9 Plt ___
___ 10:44PM BLOOD Neuts-49.4 ___ Monos-8.5 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-4.26 AbsLymp-3.44 AbsMono-0.73 
AbsEos-0.12 AbsBaso-0.05
___ 05:20AM BLOOD ___ PTT-26.5 ___
___ 04:50PM BLOOD AT-95
___ 06:38AM BLOOD ProtCFn-139 ProtSFn-130
___ 06:38AM BLOOD Lupus-NOTDETECTE dRVVT-S-0.86 SCT-S-0.79
___ 05:20AM BLOOD Glucose-98 UreaN-17 Creat-0.8 Na-143 
K-4.5 Cl-106 HCO3-24 AnGap-13
___ 06:25AM BLOOD ALT-23 AST-23 AlkPhos-67 TotBili-0.4
___ 08:09PM BLOOD Lipase-23
___ 05:20AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.1
___ 08:09PM BLOOD %HbA1c-6.0 eAG-126
___ 08:09PM BLOOD Triglyc-290* HDL-68 CHOL/HD-4.7 
LDLcalc-194*
___ 08:09PM BLOOD TSH-2.5
___ 08:09PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman w/ HTN who presented w/ acute 
speech changes, including word-finding difficulties and slowed 
speech.
In ED, ___ stroke scale was 1. No other neurologic deficits were 
noted. She was admitted for stroke w/up.

She had no acute events in the hospital. Speech/language 
gradually improved over next 2 days.
MRI confirmed ischemia in the L frontal lobe (L M2 occlusion).
TEE showed PFO (2 mm). U/S LEs were negative. MRV pelvis was 
negative.
For elevated LDL, she was started on rosuvastatin.
She was started on and continued on ASA, also.

She was discharged in stable condition /w cardiac monitor (x 30 
days) looking for afib.
She was prescribed outpt speech therapy.
She will f/up w/ primary care, w/ Neurology (2 months after 
D/C). At the neurology appointment discussion regarding closure 
of PFO will be assessed. 

=====================
Transitional issues
=====================
- Follow-up appointment w/ Neurology and w/ Cardiology (as 
above).
- zio patch heart monitor for 30 days 
- Take aspirin daily 
- F/u with PCP ___ ___ weeks
 
Medications on Admission:
lisinopril/HCTZ ___
pravastatin 40mg daily 
cetirizine 10mg daily prn allergies
ibuprofen prn shoulder pain
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
2.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*90 
Tablet Refills:*0 
3.Outpatient Speech/Swallowing Therapy
for recovery from aphasia / dysarthria

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L frontal lobe ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

  You presented to the hospital with difficulty speaking. You 
had imaging of you brain and you were diagnosed with a stroke in 
the L frontal lobe of your brain.  You then underwent multiple 
tests to try and figure out why you had a stroke. 

Ultrasound of your heart was done and showed a small 
hole/connection between the two chambers (atria) of your heart, 
this hole is called a  patent foramen ovale (present in about 
25% of the population).
We do not know for certain what caused the blood clot that led 
to your stroke. Because of this, we will be discharging you with 
a heart monitor that you will wear for 30 days to look for 
abnormal heart rhtyhms that could cause clots and strokes. 
You will also receive a prescription for outpatient speech 
therapy as well.

You should follow-up with your primary care, with Neurology, and 
with Cardiology (see below in the appointments section).

It was a pleasure taking care of you.
 - Your ___ Neurology team
 
Followup Instructions:
___